US05510360
Step b) 4-Chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole
In to a 5° C. solution of 4,5-dimethyl-2-(4-trifluoromethyl-phenyl)-oxazole N-oxide hydrochloride (113.71 g, 387.5 mmol) in CHCl3 (560 ml), was added phosphorus oxychloride (39.4 ml, 422.4 mmol) in CHCl3, dropwise over 15 min. The reaction was refluxed for 2.5 h, then cooled to 5° C., poured into ice water, and basified with NaOH (1N). The organic layer was dried over MgSO4. Evaporation and recrystallization from ether/hexane, gave a yellow solid (30.0 g, 28% yield, mp 84°-85° C.).

reactant | 4,5-dimethyl-2-(4-trifluoromethyl-phenyl)-oxazole N-oxide hydrochloride | 387.5 mmol, 113.71 g | Cl.CC=1[N+](=C(OC1C)C1=CC=C(C=C1)C(F)(F)F)[O-]
reactant | phosphorus oxychloride | 422.4 mmol, 39.4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 1N | [OH-].[Na+]
solvent | CHCl3 | 560 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole | 30.0 g, 28% yield | ClCC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C12H9ClF3NO
